US03931232
5,6,7,8-Tetrahydro-1-hydroxy-3-(2-methylheptyl)-6,9-dimethylxanthene
When 5-(2-methylheptyl)resorcinol is reacted with 2-acetyl-5-methylcyclohexanone as described in Example 1 the title compound is obtained.

reactant | 5-(2-methylheptyl)resorcinol | CC(CC=1C=C(C=C(O)C1)O)CCCCC | C14H22O2
reactant | 2-acetyl-5-methylcyclohexanone | C(C)(=O)C1C(CC(CC1)C)=O | C9H14O2
product | 5,6,7,8-Tetrahydro-1-hydroxy-3-(2-methylheptyl)-6,9-dimethylxanthene | OC1=CC(=CC=2OC=3CC(CCC3C(C12)C)C)CC(CCCCC)C | C23H34O2
